US05356916
There was suspended, in 5 ml of dry pyridine, 521 mg of 4-[3-(1H-imidazol-1-yl)propoxy]benzamidoxime. After gradual and dropwise addition of 194 mg of propionyl chloride and stirring at room temperature for one hour, the suspension was heated to a temperature ranging from 80° to 90° C. for 3.5 hours with stirring. The suspension was added to ice water and the pH thereof was adjusted to 9 to 10 by the addition of potassium carbonate. Then the suspension was extracted with ether and the extract was washed with water and then dried. After concentration of the extract, the resulting residue was purified by silica gel column chromatography (eluent: 98% chloroform-ethanol). n-Hexane was added to the resulting fraction to crystallize the product, followed by filtration to give 431 mg (yield 72.2%) of 3-[4 -[3-(1H-imidazol-1-yl)propoxy]phenyl]-5-ethyl-1,2,4-oxadiazole having a melting point of 74.0°-75.5 ° C.

reactant | 4-[3-(1H-imidazol-1-yl)propoxy]benzamidoxime | 521 mg | N1(C=NC=C1)CCCOC1=CC=C(C(N)=NO)C=C1 | C13H16N4O2
reactant | propionyl chloride | 194 mg | C(CC)(=O)Cl | C3H5ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-[4 -[3-(1H-imidazol-1-yl)propoxy]phenyl]-5-ethyl-1,2,4-oxadiazole | 431 mg, yield 72.2% | N1(C=NC=C1)CCCOC1=CC=C(C=C1)C1=NOC(=N1)CC | C16H18N4O2
